US06939883B2
Step 5D 1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-bromo-5-[N-{2-(2-pyridyl)ethyl}-N-methylaminomethyl]-4-pyridone:
(2-Methylaminoethyl)pyridine (680 mg, 5.00 mmol) was added to a stirred solution of 1-(2,6-difluorobenzyl)-2,6-dimethyl-3-bromo-5-(carbonylmethyl)4-pyridone (430 mg, 1.16 mmol) in CH2Cl2 (15 mL). After 30 min., NaBH(OAc)3 (1.23 g, 5.80 mmol) was added in small portions, and the resulting mixture was stirred at room temperature for 1 h. The reaction mixture was diluted with H2O (15 mL) and the organic layer was separated and washed with sat. NaHCO3 and brine. The organics were dried over MgSO4, filtered and concentrated in vacuo. The crude was used in the next step without any further purification. Crude yield 426 mg (75%). LRMS m/z 490.0 (M+−1), 492.0 (M++1).

reactant | (2-Methylaminoethyl)pyridine | 5.00 mmol, 680 mg | CNCCC1=NC=CC=C1 | C8H12N2
reactant | 1-(2,6-difluorobenzyl)-2,6-dimethyl-3-bromo-5-(carbonylmethyl)4-pyridone | 1.16 mmol, 430 mg | FC1=C(CN2C(=C(C(C(=C2C)C=C=O)=O)Br)C)C(=CC=C1)F | C16H12BrF2NO2
reactant | NaBH(OAc)3 | 5.80 mmol, 1.23 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 15 mL | O | H2O
product | 1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-bromo-5-[N-{2-(2-pyridyl)ethyl}-N-methylaminomethyl]-4-pyridone | FC1=C(CN2C(=C(C(C(=C2C)CN(C)CCC2=NC=CC=C2)=O)Br)C)C(=CC=C1)F | C23H24BrF2N3O
